US08377949B2
3-[1-(4,6-Dimethyl-1,2-benzisothiazol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-pentanoic acid
To a solution of 3-[1-(4,6-dimethyl-1,2-benzisothiazol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-pentanoic acid methyl ester (65 mg, 0.14 mmol) in 1,4-dioxane (10 mL), THF (5 mL) and water (2 mL) is added LiOH (7 mg, 0.29 mmol) at room temperature. The solution is stirred at room temperature for 8 hours. The solution is concentrated and water is added to the residue. The solution is acidified by 12N HCl in an ice-bath. The precipitated solid filtration to afford the title compound.: LCMS (ESMS): m/z 438.09 (M+H+).

reactant | 3-[1-(4,6-dimethyl-1,2-benzisothiazol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-pentanoic acid methyl ester | 0.14 mmol, 65 mg | COC(CC(CC)N1C(N(C2=CC=CC=C2C1=O)CC1=NSC2=C1C(=CC(=C2)C)C)=O)=O | C24H25N3O4S
reactant | LiOH | 0.29 mmol, 7 mg | [Li+].[OH-]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 3-[1-(4,6-Dimethyl-1,2-benzisothiazol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-pentanoic acid | CC1=CC(=CC2=C1C(=NS2)CN2C(N(C(C1=CC=CC=C21)=O)C(CC(=O)O)CC)=O)C | C23H23N3O4S
